US07402592B2
6-(3-Pyridinyl)-3-azabicyclo[3.3.1]non-6-ene
A mixture of ethyl 6-(3-pyridinyl)-3-azabicyclo[3.3.1]non-6-ene-3-carboxylate (100 mg, 0.370 mmol) and 1.5 mL of concentrated HCl was heated under reflux for 16 h. The mixture was cooled in an ice bath and made basic by adding 5 M aqueous sodium hydroxide. The suspension was extracted with chloroform (3×5 mL), and the extracts were dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was filtered though a plug of silica gel, eluting with 90:10:1 dichloromethane/methanol/concentrated ammonium hydroxide, to give the product as an oil (11 mg, 15%).

reactant | ethyl 6-(3-pyridinyl)-3-azabicyclo[3.3.1]non-6-ene-3-carboxylate | 0.370 mmol, 100 mg | N1=CC(=CC=C1)C=1C2CN(CC(CC1)C2)C(=O)OCC | C16H20N2O2
reactant | HCl | 1.5 mL | Cl | ClH
reactant | sodium hydroxide | 5 M | [OH-].[Na+]
product | 6-(3-Pyridinyl)-3-azabicyclo[3.3.1]non-6-ene | 11 mg, 15% | N1=CC(=CC=C1)C=1C2CNCC(CC1)C2 | C13H16N2
